US07279489B2
A. 1-{4-(N-Piperidyl)benzyl}-2-(4-fluorophenyl}-6-phenyl methoxy-1,2,3,4-tetrahydroisoquinoline
1-(4-Bromobenzyl)-6-phenylmethoxy-2-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline (0.82 g, 1.6 mmol) and piperidine (0.17 g, 1.96 mmol) are placed in a 100 ml round bottom flask containing anh. toluene (50 mL) under nitrogen. NaOtBu (0.22 g, 2.3 mmol), Pd(dba)2 (0.029 g, 2 mol %) and P(o-tolyl)3 (0.02 g, 6 mol %) are added, and the mixture heated to reflux overnight. The reaction is cooled to RT and treated with brine and ethyl ether. The organic layer is dried over MgSO4 and purified by column chromatography (SiO2, hexanes/ethyl acetate, 6:1) to yield the title compound (0.40 g, 49% yield): ES-MS (m/z) 507 [M+H]+.

reactant | 1-(4-Bromobenzyl)-6-phenylmethoxy-2-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline | 1.6 mmol, 0.82 g | BrC1=CC=C(CC2N(CCC3=CC(=CC=C23)OCC2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C29H25BrFNO
reactant | piperidine | 1.96 mmol, 0.17 g | N1CCCCC1 | C5H11N
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | NaOtBu | 2.3 mmol, 0.22 g | CC(C)(C)[O-].[Na+]
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(dba)2 | 0.029 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | P(o-tolyl)3 | 0.02 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
product | 1-{4-(N-Piperidyl)benzyl}-2-(4-fluorophenyl}-6-phenyl methoxy-1,2,3,4-tetrahydroisoquinoline | 0.40 g, 49% yield | N1(CCCCC1)C1=CC=C(CCOC2N(CCC3=CC(=CC=C23)C2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C34H35FN2O
